M2 (IOUT1 net07 net016 VSS) nmos4
M1 (net016 IOUT1 VSS VSS) nmos4
M4 (net07 net09 net010 VSS) nmos4
M0 (net010 net010 VSS VSS) nmos4
R1 (VDD net09) resistor
? Missing component
